### ISSUE TITLE
Bug: `simp?` does not take reverse directions into account

### ISSUE THREAD

**Issue by sgouezel** [leanprover/std4#264]
MWE:
```lean
import Std
def foo : Nat → Nat := sorry
theorem foo_eq_iff (z : Nat) : z = 17 ↔ foo z = 3 := sorry
theorem fail (z : Nat) (h : z = 17) : foo z = 3 := by
  simp? [← foo_eq_iff]
  exact h
```
The `simp?` works fine, but the suggestion is to use `simp only [foo_eq_iff]`.

**Comment by JLimperg** [comment]
Caused by core: leanprover/lean4#2131

**Comment by fgdorais** [comment]
Fixed by [lean4#2131](https://github.com/leanprover/lean4/issues/2131)
